US09328124B2
(tert-Butoxycarbonylamino) tert-butyl carbonate
A mixture of hydroxylamine hydrochloride (550.0 g, 7.9 mol), water (5.5 L) and a solution of heptane/MTBE (5:1, 5.5 L) is cooled to −5° C. A pre-cooled (−5° C.) solution of di-t-butyldicarbonate (3.55 Kg, 16.3 mol), triethylamine (1.67 Kg, 16.5 mol) as a solution in heptane/MTBE (5:1, 1.1 L) is slowly added over 2 hours. The reaction is stirred at −5° C. for a 1 hour and is then warmed to room temperature and stirred overnight. The layers are separated and the organic layer is washed twice with saturated aqueous ammonium chloride (2 L) and saturated aqueous sodium chloride solution (1 L), dried over sodium sulphate, filtered, and concentrated to give an oil which crystallizes to a white solid. The solid is stirred with heptane (1 L) in an ice-water bath and filtered to give the title product (1360.2 g, 73%). 1H NMR (d6-DMSO) δ 10.7 (bs, 1H), 1.44 (s, 9H), 1.40 (s, 9H).

reactant | hydroxylamine hydrochloride | 7.9 mol, 550.0 g | Cl.NO
reactant | water | 5.5 L | O | H2O
reactant | di-t-butyldicarbonate | 16.3 mol, 3.55 Kg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 16.5 mol, 1.67 Kg | C(C)N(CC)CC | C6H15N
reactant | heptane MTBE | 1.1 L | CCCCCCC.CC(C)(C)OC
reactant | heptane MTBE | 5.5 L | CCCCCCC.CC(C)(C)OC
product | (tert-Butoxycarbonylamino) tert-butyl carbonate | 1360.2 g, 73% | C(ONC(=O)OC(C)(C)C)(OC(C)(C)C)=O | C10H19NO5
